US07615557B2
To a solution of 4-nitroindan-1-one (0.381 g, 2.15 mmol) in ethanol (5 ml) was added sodium borohydride (0.048 g, 1.29 mmol) at 0° C., and the mixture was stirred at room temperature for 3 hours. Aqueous solution of ammonium chloride was added to the mixture, and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure to obtain 4-nitroindan-1-ol. 1H NMR (CDCl3) δ 1.90 (d, J=6.5 Hz, 1H), 2.00-2.07 (m, 1H), 2.56-2.63 (m, 1H), 3.25-3.33 (m, 1H), 3.54-3.60 (m, 1H), 5.30-5.35 (m, 1H), 7.44 (t, J=8.2 Hz, 1H), 7.72 (d, J=7.6 Hz, 1H), 8.12 (d, J=8.2 Hz, 1H).

reactant | 4-nitroindan-1-one | 2.15 mmol, 0.381 g | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)=O | C9H7NO3
reactant | sodium borohydride | 1.29 mmol, 0.048 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-nitroindan-1-ol | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)O | C9H9NO3
